US09328118B2
Bis(pinacolato)diboron (4.12 g), potassium acetate (4.35 g), and dichlorobis(triphenylphosphine)palladium (II) (1.04 g) were added to a solution of 4-bromo-1-[(4-methoxybenzyl)oxy]-2-(trifluoromethyl)benzene (5.87 g) in dioxane (90 mL) at room temperature in an argon atmosphere, and the mixture was stirred at 100° C. for 2 hours. After the reaction mixture was cooled to room temperature, 2,6-dichloro-9-methyl-9H-purine (3 g), Na2CO3 (4.7 g), tetrakis(triphenylphosphine)palladium (0) (854 mg), and water (15 mL) were added thereto. The reaction mixture was stirred at 100° C. for 4 hours. After the reaction mixture was cooled to room temperature, EtOAc was added thereto, followed by stirring, and the insoluble material was separated by filtration using Celite. Extraction was performed on the filtrate using EtOAc, and the extract was washed with water. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=4:1 to 1:1), whereby 2-chloro-6-{4-[(4-methoxybenzyl)oxy]-3-(trifluoromethyl)phenyl}-9-methyl-9H-purine (1.1 g) was obtained as a white solid.

reactant | Bis(pinacolato)diboron | 4.12 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.35 g | C(C)(=O)[O-].[K+]
reactant | 4-bromo-1-[(4-methoxybenzyl)oxy]-2-(trifluoromethyl)benzene | 5.87 g | BrC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)C(F)(F)F | C15H12BrF3O2
reactant | 2,6-dichloro-9-methyl-9H-purine | 3 g | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
reactant | Na2CO3 | 4.7 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.04 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | tetrakis(triphenylphosphine)palladium | 854 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 15 mL | O | H2O
product | 2-chloro-6-{4-[(4-methoxybenzyl)oxy]-3-(trifluoromethyl)phenyl}-9-methyl-9H-purine | 1.1 g | ClC1=NC(=C2N=CN(C2=N1)C)C1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)C(F)(F)F | C21H16ClF3N4O2
